US08357703B2
6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(1-methyl-cyclopropyl)-nicotinamide
As described for example 19b, 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.34 mmol) was converted, using 1-methylcyclopropylamine instead of L-2,2,2-trifluoro-1-(methyl)ethylamine, to the title compound (83 mg, 70%) which was obtained as a white solid after purification by chromatography (silica, heptane:ethyl acetate=1:0 to 2:1). MS: m/e=342.3 [M−H]−.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.34 mmol, 100 mg | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C15H18N2O4
reactant | 1-methylcyclopropylamine | CC1(CC1)N | C4H9N
product | 6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(1-methyl-cyclopropyl)-nicotinamide | 83 mg, 70% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)NC2(CC2)C)C=C1)C | C19H25N3O3
